US07473698B2
4-{[(6-(4-FLUOROPHENYL)-5-(METHOXYCARBONYL)-4-METHYL-2-OXO-3,6-DIHYDRO-1(2H)-PYRIMIDINYL)CARBONYL]AMINO}BUTANOIC ACID
Into a solution of methyl 1-{[(4-tert-butoxy-4-oxobutyl)amino]carbonyl}-6-(4-fluorophenyl)-2-methoxy-4-methyl-1,6-dihydro-5-pyrimidinecarboxylate (77.3 mg, 0.166 mmol) in dichloromethane (2.00 mL) at 0° C. was slowly added trifluoroacetic acid (189 mg, 1.66 mmol). The reaction mixture was stirred at room temperature for 10 min and concentrated in vacuo. The residue was dissolved in iso-PrOH/CHCl3 (1:3, 10 mL) and basified to pH 11 with 10% KOH solution, washed with H2O, followed by brine. The organic layer was dried over MgSO4 and concentrated in vacuo to afford the desired product (58.1 mg, 88.9%). ESMS m/e: 394.1 (M+H)+.

reactant | methyl 1-{[(4-tert-butoxy-4-oxobutyl)amino]carbonyl}-6-(4-fluorophenyl)-2-methoxy-4-methyl-1,6-dihydro-5-pyrimidinecarboxylate | 0.166 mmol, 77.3 mg | C(C)(C)(C)OC(CCCNC(=O)N1C(=NC(=C(C1C1=CC=C(C=C1)F)C(=O)OC)C)OC)=O | C23H30FN3O6
reactant | trifluoroacetic acid | 1.66 mmol, 189 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2.00 mL | ClCCl | CH2Cl2
product | 4-{[(6-(4-FLUOROPHENYL)-5-(METHOXYCARBONYL)-4-METHYL-2-OXO-3,6-DIHYDRO-1(2H)-PYRIMIDINYL)CARBONYL]AMINO}BUTANOIC ACID | 58.1 mg, 88.9% | FC1=CC=C(C=C1)C1C(=C(NC(N1C(=O)NCCCC(=O)O)=O)C)C(=O)OC | C18H20FN3O6
